US09302989B2
N-(4-(piperidin-4-yl)phenyl)isoindoline-2-carboxamide
tert-Butyl 4-(4-(isoindoline-2-carboxamido)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (1.00 g, 2.38 mmol) in 20 ml of 1:1 methanol/tetrahydrofuran was added to 5% Pd on carbon (wet) (0.200 g) in a 50 ml pressure bottle and stirred for 16 hours at 30 atm and room temperature. The mixture was filtered through a nylon membrane and concentrated. The residue was suspended in dichloromethane, stirred 1 hour and filtered with dichloromethane washes to provide the title compound.

reactant | tert-Butyl 4-(4-(isoindoline-2-carboxamido)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 2.38 mmol, 1.00 g | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C | C25H29N3O3
solvent | methanol tetrahydrofuran | 20 ml | CO.O1CCCC1
catalyst | Pd on carbon | 0.200 g | [Pd] | Pd
product | N-(4-(piperidin-4-yl)phenyl)isoindoline-2-carboxamide | N1CCC(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H23N3O
